US04698340
A mixture of 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide (10 g), sodium chloride (8 g) and phosphorous oxychloride (3.3 g) in 1,2-dichloroethane (50 ml) was refluxed for 10 hours. After removal of the sodium chloride, the reaction mixture was poured into a mixture of dichloromethane (200 ml) and aqueous saturated hydrogen carbonate solution (100 ml). The separated organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether, collected, washed with diethyl ether and dried to give 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarbonitrile (6.3 g).

reactant | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide | 10 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C18H14N4O3
reactant | sodium chloride | 8 g | [Cl-].[Na+]
reactant | phosphorous oxychloride | 3.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarbonitrile | 6.3 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C18H12N4O2
